US06288096B1
13.6 g (0.1 mole) p-hydroxyacetophenone, 29.4 g (0.1 mole) 4-(methylsulfonyloxy)phenethyl methanesulfonate and 42.4 g (0.3 mole) potassium carbonate in acetonitrile were refluxed over night. The salts were filtered off and the solvent was evaporated in vacuo. The residue was crystallized in isopropyl alcohol. The crystals were dissolved in dichloromethane, washed with diluted potassium carbonate, dried (magnesium sulfate), filtered and evaporated to give 22.7 g (yield 68%) 4-[2-(4-acetylphenoxy)ethyl]phenyl methanesulfonate.

reactant | p-hydroxyacetophenone | 0.1 mole, 13.6 g | OC1=CC=C(C=C1)C(C)=O | C8H8O2
reactant | 4-(methylsulfonyloxy)phenethyl methanesulfonate | 0.1 mole, 29.4 g | CS(=O)(=O)OCCC1=CC=C(C=C1)OS(=O)(=O)C | C10H14O6S2
reactant | potassium carbonate | 0.3 mole, 42.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | C(C)#N | C2H3N
product | 4-[2-(4-acetylphenoxy)ethyl]phenyl methanesulfonate | 22.7 g, yield 68% | CS(=O)(=O)OC1=CC=C(C=C1)CCOC1=CC=C(C=C1)C(C)=O | C17H18O5S
